US04182776
Ethyl p-[(3-phenoxypropyl)amino]benzoate
A mixture of 33 g of ethyl p-aminobenzoate, 21.5 g of 3-bromopropylphenyl ether and 100 ml of hexamethylphosphoramide is heated at 100°-110° C. in an oil bath for 20 hours. The mixture is chilled, diluted with 50 ml of water, chilled and filtered. The solid is washed with ethanol-water (1:1) and with water to give yellow crystals, mp 73°-74° C.

reactant | ethyl p-aminobenzoate | 33 g | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 3-bromopropylphenyl ether | 21.5 g | BrCCCOC1=CC=CC=C1 | C9H11BrO
reactant | hexamethylphosphoramide | 100 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | 50 ml | O | H2O
product | Ethyl p-[(3-phenoxypropyl)amino]benzoate | O(C1=CC=CC=C1)CCCNC1=CC=C(C(=O)OCC)C=C1 | C18H21NO3
